US06897233B2
2(d) (R)-1-(5-Benzyloxypentyl)-4-butylpyrrolidin-2-one
To a solution of the compound of Example 2(c) (0.42 g, 2.9 mmol) in dry dimethylformamide (10 mL) under argon was slowly added sodium hydride (60% in mineral oil, 0.14 g, 3.5 mmol) at 0° C. After stirring at 0° C. for 30 minutes, 5-benzyloxypentyl bromide (0.9 g, 3.5 mmol) was dropwise added. The resulting mixture was stirred at room temperature overnight and then diluted with ethyl acetate (50 mL). The organic solution was washed with water (4×30 mL), brine (30 mL), dried (Na2SO4) and concentrated. The residue was purified by flash column chromatography (silica gel, 1:1 EtOAc/hexanes) to afford 0.73 g (95%) of the title compound as a clear oil: 1H NMR (CDCl3) δ 7.33 (m, 5H), 4.51 (s, 2H), 3.45 (m, 3H), 3.27 (t, 2H), 2.99 (dd, 1H), 2.52 (dd, 1H), 2.32 (m, 1H), 2.06 (m, 1H), 1.24-1.71 (m, 12H), 0.93 (t, 3H). MS(ES) m/e 318 [M+H]+.

reactant | sodium hydride | 3.5 mmol, 0.14 g | [H-].[Na+]
reactant | 5-benzyloxypentyl bromide | 3.5 mmol, 0.9 g | C(C1=CC=CC=C1)OCCCCCBr | C12H17BrO
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (R)-1-(5-Benzyloxypentyl)-4-butylpyrrolidin-2-one | 0.73 g, 95% | C(C1=CC=CC=C1)OCCCCCN1C(C[C@H](C1)CCCC)=O | C20H31NO2
